US07122672B2
3-Amino-3-methylbutyne (commercially available as 90% aqueous solution; 16.6 g) was dissolved in dichloromethane (150 ml), dried over sodium sulphate and filtered to give a solution containing 14.9 g of amine. To the stirred solution of amine under an atmosphere of nitrogen at ambient temperature was added dry triethylamine (48.4 ml). 1,2-Bis-(chlorodimethylsilyl)ethane (38.98 g) in dichloromethane (100 ml) was then added dropwise, maintaining the reaction temperature at 15° C. by cooling. The mixture was stirred for 3 hours, the colourless solid, which had formed during the reaction, was filtered from solution and the filtrate was evaporated under reduced pressure to give a paste. The paste was extracted into hexane and refiltered. The filtrate was evaporated under reduced pressure and the oil obtained was distilled to give 1-(1,1-dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane, 21.5 g, b.p. 41° C. at 0.06 mm Hg pressure.

reactant | 3-Amino-3-methylbutyne | NC(C#C)(C)C | C5H9N
reactant | triethylamine | 48.4 ml | C(C)N(CC)CC | C6H15N
reactant | 1,2-Bis-(chlorodimethylsilyl)ethane | 38.98 g | Cl[Si](CC[Si](C)(C)Cl)(C)C | C6H16Cl2Si2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(1,1-dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | CC(C#C)(C)N1[Si](CC[Si]1(C)C)(C)C | C11H23NSi2
